US07622492B2
Triethylamine (9.8 mL, 70 mmol) was added in two portions to a cooled (˜0° C.) solution of 3,5-dichloro-phenylhydrazine hydrochloride (5 g, 23.4 mmol) in methanol (50 mL). Di-tert-butyl dicarbonate (33.1 g, 152 mmol) was added and the reaction mixture was stirred at 0° C. for 2-3 min, and then at 75° C. (oil-bath temperature) overnight. Further portions of di-tert-butyl dicarbonate (0.5 g, 2.3 mmol) and triethylamine (1 mL, 7.2 mmol) were added and the reaction mixture was stirred overnight at 75° C. The reaction was allowed to cool to room temperature and the solvent was evaporated. Ethyl acetate (200 mL) was added and the solution was washed with water (100 mL) and brine. The combined aqueous layers were extracted with ethyl acetate (200 mL). The combined organic extracts were dried (magnesium sulfate), filtered, evaporated, and dried under high vacuum for 3 h to give N′-(3,5-dichloro-phenyl)-hydrazinecarboxylic acid tert-butyl ester (5.5 g, 85%).

reactant | Triethylamine | 70 mmol, 9.8 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-dichloro-phenylhydrazine hydrochloride | 23.4 mmol, 5 g | Cl.ClC=1C=C(C=C(C1)Cl)NN
reactant | Di-tert-butyl dicarbonate | 152 mmol, 33.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 2.3 mmol, 0.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 7.2 mmol, 1 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 50 mL | CO | CH4O
product | N′-(3,5-dichloro-phenyl)-hydrazinecarboxylic acid tert-butyl ester | 5.5 g, 85% | C(C)(C)(C)OC(=O)NNC1=CC(=CC(=C1)Cl)Cl | C11H14Cl2N2O2
